US04923885
3,5-Dichloro-4-[(l-naphthyl)thio]benzene carboxamide
To a solution of 3,4,5-trichlorobenzene carboxamide (25 g) in 220 ml of dry dimethylformamide (DMF), 26 g of 1-naphthalenethiol potassium salt is added and the reaction mixture stirred at room temperature for two days. The reaction mixture is then diluted with water and extracted with methylene chloride. The combined extracts are washed with water, dried with anhydrous magnesium sulfate and concentrated. The product can be purified by chromatography on silica gel.

reactant | 3,4,5-trichlorobenzene carboxamide | 25 g | ClC=1C=C(C=C(C1Cl)Cl)C(=O)N | C7H4Cl3NO
reactant | 1-naphthalenethiol potassium salt | 26 g | [K].C1(=CC=CC2=CC=CC=C12)S
solvent | dimethylformamide | 220 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,5-Dichloro-4-[(l-naphthyl)thio]benzene carboxamide | ClC=1C=C(C=C(C1SC1=CC=CC2=CC=CC=C12)Cl)C(=O)N | C17H11Cl2NOS
